US04272437
2-Azidoethyl methanesulfonate
A solution of bromoethanol (7.5 g, 60.0 mmol) and sodium azide (5.0 g, 76.9 mmol) in HMPT (30 ml) was heated at 115° C. for 2.5 h. The reaction mixture was cooled to 23° C. and diluted with CH2Cl2 (100 ml). The solids were removed by filtration and the CH2Cl2 was evaporated on the rotary evaporator leaving a yellow liquid which was cooled to 0° C. and successively treated with mesylchloride (5.57 ml, 72.0 mmol) and triethylamine (10.0 ml, 72.0 mmol). The reaction mixture was stirred at 0° C. for 1 h, then at 23° C. for 6 h, and poured into H2O (300 ml). The aqueous solution was extracted with ether (1×200 ml, 4×100 ml); the ether extracts were combined, washed with 1 N HCl solution, H2O saturated NaHCO3 solution and H 2 O, dried over anhydrous MgSO4 and concentrated on a rotary evaporator to an orange liquid which was distilled under high vacuum bp 95°-100° C.0.3 torr, 5.8 g, 58.5%; ir (neat) νmax : 2005 (s, N3), 1345 (s, SO2 --O), 1175 (m, SO2 --O) cm-1. 1Hmr (CDCl3) δ: 3.03 (s, 3H, OCH3), 3.43-3.76 (m, 2H, H-2) and 4.2-4.46 ppm (m, 2H, H-1).

reactant | bromoethanol | 60.0 mmol, 7.5 g | BrC(C)O | C2H5BrO
reactant | sodium azide | 76.9 mmol, 5.0 g | [N-]=[N+]=[N-].[Na+]
reactant | mesylchloride | 72.0 mmol, 5.57 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 72.0 mmol, 10.0 ml | C(C)N(CC)CC | C6H15N
solvent | HMPT | 30 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 300 ml | O | H2O
product | 2-Azidoethyl methanesulfonate | CS(=O)(=O)OCCN=[N+]=[N-] | C3H7N3O3S
